US07375087B2
To a solution of 2-(tert-butoxycarbonylamino)-2-methylpropionic acid (4.06 g) in N,N-dimethylformamide (40 mL) were added potassium carbonate (4.15 g) and benzyl bromide (2.85 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue (solid) was treated with n-hexane and collected by filtration. The crystals were dried under reduced pressure to give benzyl 2-(tert-butoxycarbonylamino)-2-methylpropionate (4.44 g). Hydrochloric acid (4 mol/L 1,4-dioxane solution, 15 mL) was added to the obtained benzyl 2-(tert-butoxycarbonylamino)-2-methylpropionate (4.44 g), and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with diethyl ether, and the resulting mixture was stirred for 1 hour. The insoluble material was collected by filtration, and washed with diethyl ether and dried under reduced pressure to give the title compound (3.4 g).

reactant | 2-(tert-butoxycarbonylamino)-2-methylpropionic acid | 4.06 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.85 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | benzyl 2-(tert-butoxycarbonylamino)-2-methylpropionate | 4.44 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)(C)C | C16H23NO4
